US04952574
A solution of 6.5 g (0.02 mole) of 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide in 20 ml of dimethylformamide was added dropwise to a suspension of 0.021 mole of sodium hydride in 10 ml dimethylformamide. The resulting mixture was stirred at about 25° C. for 30 minutes, at 60° C. for 30 minutes, and then 0.3 g of sodium iodide was added followed by the addition of a solution of 1.7 g (0.018 mole) of 2-chloroacetamide in 15 ml dry dimethylformamide. The reaction mixture was stirred for about 16 hours at 60° C. and then poured into 500 ml cold water. The resulting precipitate was collected and dried, then dissolved in a minimum of 5% methanol in chloroform and washed through a column of basic alumina. The eluent was evaporated to give a white solid which was recrystallized from about 300 ml of 3:4 water:ethanol to give 4.9 g of white crystalline 2-carbamoylmethoxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide.

reactant | 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 0.02 mole, 6.5 g | OC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C15H13F3N2O3
reactant | sodium hydride | 0.021 mole | [H-].[Na+]
reactant | sodium iodide | 0.3 g | [I-].[Na+]
reactant | 2-chloroacetamide | 0.018 mole, 1.7 g | ClCC(=O)N | C2H4ClNO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 2-carbamoylmethoxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 4.9 g | C(N)(=O)COC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C17H16F3N3O4
